US06613942B1
Preparation of 3-Chloro-4-hydroxybenzoic Acid {4-[2-(1,2,3,4-Tetrahydroisoquinolin-2-yl)ethoxy]-2-methoxybenzylidene}hydrazide
The resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (resin—[building block 1]) (3 g, ˜3 mmoles) was swelled in DMF (35 mL) for 30 minutes. Then 4-(2-bromoethoxy)-2-methoxybenzaldehyde (2.33 g, 9 mmoles) and triethyl orthoformate (18 mL) were added and the mixture was shaken at room temperature for 16 hours. The resin was repeatedly swelled in DMF (35 ml, 4 times), CH2Cl2 (35 mL, 6 times) and N-methyl-2-pyrrolidinone (NMP) (35 mL, 2 times) and filtered. The resin was swelled in NMP (40 mL) and 1,2,3,4-tetrahydroisoquinoline (3.75 mL, 30 mmoles) and potassium iodide (1.0 g, 6 mmoles) were added. The resin was shaken at room temperature for 16 hours and filtered. The resin was repeatedly swelled in DMF (40 ml, 5 times), CH2Cl2 (40 mL, 10 times) and filtered. The compound was cleaved off the resin by shaking for 1 hour at room temperature with a 50% solution of trifluoroacetic acid in CH2Cl2 (40 mL). The mixture was filtered and the resin was extracted with CH2Cl2 (40 mL, 2 times). The combined CH2Cl2 extracts were concentrated in vacuo. The residue was dissolved in CH2Cl2 (40 mL) and concentrated in vacuo. The residue was dissolved in methanol (40 mL) and concentrated in vacuo. The residue was partitioned between ethyl acetate (50 mL) and saturated sodium hydrogencarbonate (50 mL). The aqueous phase was extracted with ethyl acetate (50 mL), and the combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified by coloumn chromatography over silica gel (200 mL) eluting with a mixture of CH2Cl2 and methanol (9:1). This afforded 280 mg of the title compound.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-(2-bromoethoxy)-2-methoxybenzaldehyde | 9 mmoles, 2.33 g | BrCCOC1=CC(=C(C=O)C=C1)OC | C10H11BrO3
reactant | triethyl orthoformate | 18 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 1,2,3,4-tetrahydroisoquinoline | 30 mmoles, 3.75 mL | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium iodide | 6 mmoles, 1.0 g | [I-].[K+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3-Chloro-4-hydroxybenzoic Acid {4-[2-(1,2,3,4-Tetrahydroisoquinolin-2-yl)ethoxy]-2-methoxybenzylidene}hydrazide | C1N(CCC2=CC=CC=C12)CCOC1=CC(=C(C=NNC(C2=CC(=C(C=C2)O)Cl)=O)C=C1)OC | C26H26ClN3O4
